US06765012B2
6-Fluoro-3-{[4-(4-piperidin-1-yl-butoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one
In a manner similar to that described in Example 231, 4-(4-piperidin-1-yl-butoxy)-phenylamine (400 mg, 1.1 equiv.) and 6-fluoro-3-hydroxymethylene-1,3-dihydro-indol-2-one (263 mg, 1.47 mmol, 1 equiv.) are reacted to give the named compound as a yellow solid (435 mg, 73%).

reactant | 4-(4-piperidin-1-yl-butoxy)-phenylamine | 400 mg, 1.1 equiv. | N1(CCCCC1)CCCCOC1=CC=C(C=C1)N | C15H24N2O
reactant | 6-fluoro-3-hydroxymethylene-1,3-dihydro-indol-2-one | 1.47 mmol, 263 mg, 1 equiv. | FC1=CC=C2C(C(NC2=C1)=O)=CO | C9H6FNO2
product | 6-Fluoro-3-{[4-(4-piperidin-1-yl-butoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one | 435 mg, 73% | FC1=CC=C2C(C(NC2=C1)=O)=CNC1=CC=C(C=C1)OCCCCN1CCCCC1 | C24H28FN3O2
